US07319170B2
Step C: Preparation of 3-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide
A solution of 3-hydroxybenzenesulfonamide (0.5 g, 2.89 mmol) and 1-(3-bromopropoxy)-4-phenoxy-2-propylbenzene (1.01 g, 2.89 mmol) with cesium carbonate (1.04 g, 3.18 mmol) in dry DMF (10 mL) was stirred at 50° C. for 5 h. The reaction suspension was cooled to room temperature and concentrated under vacuum to an orange residue. The residue was partitioned between ethyl acetate and water. The ethyl acetate phase was dried over sodium sulfate, filtered, and concentrated to an oil. The oil was chromatographed over silica gel with hexanes/ethyl acetate (2:1) to provide the title compound.

reactant | 3-hydroxybenzenesulfonamide | 2.89 mmol, 0.5 g | OC=1C=C(C=CC1)S(=O)(=O)N | C6H7NO3S
reactant | 1-(3-bromopropoxy)-4-phenoxy-2-propylbenzene | 2.89 mmol, 1.01 g | BrCCCOC1=C(C=C(C=C1)OC1=CC=CC=C1)CCC | C18H21BrO2
reactant | cesium carbonate | 3.18 mmol, 1.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide | O(C1=CC=CC=C1)C1=CC(=C(OCCCOC=2C=C(C=CC2)S(=O)(=O)N)C=C1)CCC | C24H27NO5S
